US08802858B2
{[4-(1H-Benzoimidazol-2-yl)-furazan-3-ylcarbamoyl]-methyl}-carbamic acid benzyl ester
0.55 g of ({4-[1-(2-trimethylsilanyl-ethoxymethyl)-1H-benzoimidazol-2-yl]-furazan-3-ylcarbamoyl}-methyl)-carbamic acid benzyl ester (1.00 mmol; 1 eq.) are added portionwise to 2.75 mL of trifluoroacetic acid (35.3 mmol; 35 eq.) at room temperature. The solution is stirred for 1 h and then concentrated to dryness under reduced pressure. The residue is dissolved in 3 mL of THF. Then, 2 mL of an aqueous solution of 8% sodium hydrogen carbonate are added. The resulting biphasic mixture is heated to 50° C. and vigorously stirred for 1.5 h. Then, the mixture is diluted with 10 mL of ethyl acetate and 5 mL of water and the organic layer is separated, washed with brine (5 mL), dried over magnesium sulfate, filtered and concentrated to dryness under reduced pressure to give 0.4 g of the desired product as a white solid.

reactant | ({4-[1-(2-trimethylsilanyl-ethoxymethyl)-1H-benzoimidazol-2-yl]-furazan-3-ylcarbamoyl}-methyl)-carbamic acid benzyl ester | 1.00 mmol, 0.55 g, 1 eq. | C(C1=CC=CC=C1)OC(NCC(NC1=NON=C1C1=NC2=C(N1COCC[Si](C)(C)C)C=CC=C2)=O)=O | C25H30N6O5Si
reactant | trifluoroacetic acid | 35.3 mmol, 2.75 mL, 35 eq. | FC(C(=O)O)(F)F | C2HF3O2
product | {[4-(1H-Benzoimidazol-2-yl)-furazan-3-ylcarbamoyl]-methyl}-carbamic acid benzyl ester | 0.4 g | C(C1=CC=CC=C1)OC(NCC(NC1=NON=C1C1=NC2=C(N1)C=CC=C2)=O)=O | C19H16N6O4
